US08957073B2
To a solution of 2-{3-[3-(4-fluoro-3-methoxy-phenyl)-pyrazin-2-yl]-azetidin-1-yl}-quinoline (193 mg, 0.5 mmol) in 1,2-dichloro-ethane (5 mL) was added BBr3 (250 mg, 1.0 mmol). The reaction mixture was stirred at RT for 2 h. The reaction mixture was diluted with water, extracted with DCM (2×30 mL). The combined organic extracts were washed with water (20 mL) and brine (20 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel to give 2-fluoro-5-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-phenol (111 mg, 0.31 mmol yield 62%).

reactant | 2-{3-[3-(4-fluoro-3-methoxy-phenyl)-pyrazin-2-yl]-azetidin-1-yl}-quinoline | 0.5 mmol, 193 mg | FC1=C(C=C(C=C1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=C1)OC | C23H19FN4O
reactant | BBr3 | 1.0 mmol, 250 mg | B(Br)(Br)Br | BBr3
solvent | 1,2-dichloro-ethane | 5 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 2-fluoro-5-[3-(1-quinolin-2-yl-azetidin-3-yl)-pyrazin-2-yl]-phenol | 0.31 mmol, 111 mg, yield 62% | FC1=C(C=C(C=C1)C1=NC=CN=C1C1CN(C1)C1=NC2=CC=CC=C2C=C1)O | C22H17FN4O
